US04806685
Preparation of (E)-1-[4-(2-diethylaminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene picrate
5.37 g (12 mmoles) of (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene, prepared as described in Example 7, are boiled with 8.8 g of diethylamino for 5 hours. The reaction mixture is diluted with 50 ml of benzene, washed with water until neutral, dried and evaporated. The residue is dissolved in 20 ml of 95% ethanol, and a solution of 3.22 g (14 mmoles) of picric acid in 32 ml of 95% ethanol is added. The separated crystals are filtered off, washed with ethanol and ether. 6.46 g (80.4%) of the aimed compound are obtained; m.p.: 131°-135° C.

reactant | (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 12 mmoles, 5.37 g | BrCCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18BrF3O
reactant | picric acid | 14 mmoles, 3.22 g | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O7
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 32 ml | C(C)O | C2H6O
product | (E)-1-[4-(2-diethylaminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene picrate | 6.46 g, 80.4% | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O.C(C)N(CCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1)CC | InChI=1S/C27H28F3NO.C6H3N3O7/c1-3-31(4-2)19-20-32-24-17-15-22(16-18-24)25(21-11-7-5-8-12-21)26(27(28,29)30)23-13-9-6-10-14-23;10-6-4(8(13)14)1-3(7(11)12)2-5(6)9(15)16/h5-18H,3-4,19-20H2,1-2H3;1-2,10H/b26-25+;
